US04144344
A solution of 27.9 g of 1-[2-hydroxy-3-(2-methoxyphenyloxy)-propyl]-piperidin-4-one and 22.8 g of 4-(2-aminoethylamino)-piperidine in 250 ml of methanol, with the addition of 2 g of a platinum on charcoal catalyst, is hydrogenated at room temperature and under normal pressure until 1 molar equivalent has been taken up. The catalyst is thereafter removed by filtration and the filtrate is concentrated under reduced pressure. The residue is dissolved in 500 ml of methylene chloride and the solution is washed with three 150 ml portions of water, dried over sodium sulphate and concentrated under reduced pressure to yield 1-[2-hydroxy-3-(2-methoxyphenyloxy)-propyl]-4-[2-(4-pyridyl-amino)-ethylamino]-piperidine, which can be processed without further purification.

reactant | 1-[2-hydroxy-3-(2-methoxyphenyloxy)-propyl]-piperidin-4-one | 27.9 g | OC(CN1CCC(CC1)=O)COC1=C(C=CC=C1)OC | C15H21NO4
reactant | 4-(2-aminoethylamino)-piperidine | 22.8 g | NCCNC1CCNCC1 | C7H17N3
solvent | methanol | 250 ml | CO | CH4O
catalyst | platinum on charcoal | 2 g | [Pt] | Pt
product | 1-[2-hydroxy-3-(2-methoxyphenyloxy)-propyl]-4-[2-(4-pyridyl-amino)-ethylamino]-piperidine | OC(CN1CCC(CC1)NCCNC1=CC=NC=C1)COC1=C(C=CC=C1)OC | C22H32N4O3
